### PR TITLE
[Merged by Bors] - feat: port RingTheory.FreeRing

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/FreeRing.lean [hunk 1]
```diff
@@ -59,14 +66,18 @@ protected theorem induction_on {C : FreeRing α → Prop} (z : FreeRing α) (hn1
   have hn : ∀ x, C x → C (-x) := fun x ih => neg_one_mul x ▸ hm _ _ hn1 ih
   have h1 : C 1 := neg_neg (1 : FreeRing α) ▸ hn _ hn1
   FreeAbelianGroup.induction_on z (add_left_neg (1 : FreeRing α) ▸ ha _ _ hn1 h1)
-    (fun m => List.recOn m h1 fun a m ih => hm _ _ (hb a) ih) (fun m ih => hn _ ih) ha
+    (fun m => List.recOn m h1 fun a m ih => by
+      convert hm _ _ (hb a) ih
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/FreeRing.lean:70]: Does this need a porting note?

**Review by Ruben-VandeVelde — APPROVED** [review]
